US07094795B2
Synthesis of racemic cis-3-benzyloxycyclohexan-1-ol
150.0 g (1.29 mol) of cis-1,3-cyclohexanediol were dissolved in 1.5 l of NMP, admixed with 111.6 g (0.99 mol) of potassium tert-butoxide (KOtBu) and stirred at 25–27° C. After about 30 minutes, the mixture was cooled to 0° C. and admixed dropwise with 78.1 g (0.46 mol) of benzyl bromide. The mixture was stirred at approx. 0° C. for 15 min and then 1.5 l of water were added. After washing three times with 700 ml of n-heptane and discarding the n-heptane solutions, the aqueous solution was extracted four times with 500 ml of MTBE. The combined MTBE phases were washed twice with in each case 1 l of water, dried (Na2SO4) and subsequently concentrated by evaporation under reduced pressure. 48.0 g of the desired compound were obtained as a clear, yellow oil; 1H NMR (CDCl3), δ =1.29 (m, 1H), 1.43–1.93 (m, 6H), 2.06 (m, 1H), 2.55 (s (br.), 1H), 3.56 (m, 1H), 3.74 (br, 1H), 4.55 (dd, 2H), 7.25–7.36 (m, 5H).

reactant | cis-1,3-cyclohexanediol | 1.29 mol, 150.0 g | [C@H]1(C[C@@H](CCC1)O)O | C6H12O2
reactant | potassium tert-butoxide | 0.99 mol, 111.6 g | CC(C)([O-])C.[K+]
reactant | benzyl bromide | 0.46 mol, 78.1 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 1.5 l | O | H2O
solvent | NMP | 1.5 l | CN1CCCC1=O | C5H9NO
product | racemic cis-3-benzyloxycyclohexan-1-ol | 48.0 g | C(C1=CC=CC=C1)O[C@H]1C[C@H](CCC1)O | C13H18O2
